US05378716
1 -(5,5-Dibromo-4-pentenyl)-3-methoxybenzene
To a solution of carbon tetrabromide (16.7 g)in methylene chloride (35 ml) was added triphenyiphosphine (26.0 g) in methylene chloride (35 ml) at 0° C. and the mixture was stirred for 10 min. To the mixture was added a solution of 1-(3-formylpropyl)-3-methoxybenzene (3.00 g) in methylene chloride (20 ml) at 0° C. The mixture was stirred for 30 min at 0° C. To the mixture was added gradually n-hexane and the mixture was filtered to remove triphenylphosphineoxide. The filtrate was washed with water and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=24:1) to give the title compound (5.33 g) having the following physical data.

reactant | carbon tetrabromide | 16.7 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenyiphosphine | 26.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(3-formylpropyl)-3-methoxybenzene | 3.00 g | C(=O)CCCC1=CC(=CC=C1)OC | C11H14O2
reactant | n-hexane | CCCCCC | C6H14
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1 -(5,5-Dibromo-4-pentenyl)-3-methoxybenzene | 5.33 g | BrC(=CCCCC1=CC(=CC=C1)OC)Br | C12H14Br2O
